### PR TITLE
[Merged by Bors] - feat(Geometry/Convex/Cone): coercion from submodule to cone

### PR DESCRIPTION
**Pull request by martinwintermath**
Add coercion from submodule to cone and support lemmas. The main feature is

* `PointedCone.ofSubmodule` coercing a submodule to a pointed cone and the corresponding `Coe` instance.

There are further lemmas coercing membership and lattice operations.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Convex/Cone/Pointed.lean [hunk 1]
```diff
@@ -35,10 +35,55 @@ namespace PointedCone
...
 variable [Semiring R] [PartialOrder R] [IsOrderedRing R] [AddCommMonoid E] [Module R E]
-  {C C₁ C₂ : PointedCone R E} {x : E} {r : R}
+variable {C : PointedCone R E}
+
+/-- A submodule is a pointed cone. -/
+@[coe] abbrev ofSubmodule (S : Submodule R E) : PointedCone R E := S.restrictScalars _
+
+instance : Coe (Submodule R E) (PointedCone R E) := ⟨ofSubmodule⟩
+
+@[simp] lemma ofSubmodule_coe (S : Submodule R E) : (ofSubmodule S : Set E) = S := by rfl
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/Cone/Pointed.lean]:
```suggestion
@[simp] lemma coe_ofSubmodule (S : Submodule R E) : (ofSubmodule S : Set E) = S := rfl
```

File: Mathlib/Geometry/Convex/Cone/Pointed.lean [hunk 2]
```diff
@@ -35,10 +35,55 @@ namespace PointedCone
...
+
+lemma mem_ofSubmodule_iff {S : Submodule R E} {x : E} : x ∈ (S : PointedCone R E) ↔ x ∈ S := by rfl
+
+lemma ofSubmodule_inj {S T : Submodule R E} : ofSubmodule S = ofSubmodule T ↔ S = T
+  := Submodule.restrictScalars_inj ..
+
+/-- Coercion of submodule to pointed cone as an order embedding. -/
+def ofSubmodule_embedding : Submodule R E ↪o PointedCone R E :=
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/Cone/Pointed.lean]:
```suggestion
def ofSubmoduleEmbedding : Submodule R E ↪o PointedCone R E :=
```
Same below

File: Mathlib/Geometry/Convex/Cone/Pointed.lean [hunk 3]
```diff
@@ -35,10 +35,55 @@ namespace PointedCone
...
+  Submodule.restrictScalarsEmbedding ..
+
+/-- Coercion of submodule to pointed cone as a lattice homomorphism. -/
+def ofSubmodule_latticeHom : CompleteLatticeHom (Submodule R E) (PointedCone R E) :=
+  Submodule.restrictScalarsLatticeHom ..
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/Cone/Pointed.lean]: Should these be abbrevs?

File: Mathlib/Geometry/Convex/Cone/Pointed.lean [hunk 4]
```diff
@@ -35,10 +35,55 @@ namespace PointedCone
...
+
+lemma ofSubmodule_inf (S T : Submodule R E) : S ⊓ T = (S ⊓ T : PointedCone R E)
+    := Submodule.restrictScalars_inf _ _ _
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/Cone/Pointed.lean]:
```suggestion
lemma ofSubmodule_inf (S T : Submodule R E) : S ⊓ T = (S ⊓ T : PointedCone R E) :=
  Submodule.restrictScalars_inf _ _ _
```
same below

File: Mathlib/Geometry/Convex/Cone/README.md [hunk 5]
```diff
@@ -1,7 +1,6 @@
 # Algebraic theory of convex cones
 
-This subfolder is destined to contain results about convex cones that do not require a topology,
-a norm nor an inner product.
+This subfolder is destined to contain results about convex cones that do not require a topology, a norm nor an inner product.
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/Cone/README.md]: Why this change?

Comment (martinwintermath) [reply Mathlib/Geometry/Convex/Cone/README.md]: I felt this line break was unintended. No?

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/Cone/README.md]: It was intended to leave the line under 100 chars

Comment (martinwintermath) [reply Mathlib/Geometry/Convex/Cone/README.md]: If this is style guide then I am not in favor of this for file types that are usually read with word wrap enabled. Anyway, this is not the place to discuss this and I reverted the change.

File: Mathlib/Geometry/Convex/Cone/Pointed.lean [hunk 6]
```diff
@@ -35,10 +35,55 @@ namespace PointedCone
...
+lemma mem_ofSubmodule_iff {S : Submodule R E} {x : E} : x ∈ (S : PointedCone R E) ↔ x ∈ S := by rfl
+
+lemma ofSubmodule_inj {S T : Submodule R E} : ofSubmodule S = ofSubmodule T ↔ S = T
+  := Submodule.restrictScalars_inj ..
+
+/-- Coercion of submodule to pointed cone as an order embedding. -/
+abbrev ofSubmoduleEmbedding : Submodule R E ↪o PointedCone R E :=
+  Submodule.restrictScalarsEmbedding ..
+
+/-- Coercion of submodule to pointed cone as a lattice homomorphism. -/
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/Cone/Pointed.lean]:
```suggestion
/-- Coercion from submodules to pointed cones as a lattice homomorphism. -/
```
maybe? Same above

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge
